US05972946
Preparation of 2-(5,6,7,8-tetrahydro-2-phenyl-4-quinazolinylamino)-N,N-dipropylacetamide:
A mixture of 4-chloro-5,6,7,8-tetrahydro-2-phenylquinazoline (1.0 g), 2-amino-N,N-dipropylacetamide (0.78 g) and triethylamine (0.5 g) is refluxed with stirring at 150° C. for three hours. To the reaction mixture are added water and chloroform, and the chloroform layer is separated, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform), and recrystallized from a mixture of diethyl ether and n-hexane to give the desired compound (1.3 g), m.p. 87-88° C.

reactant | 4-chloro-5,6,7,8-tetrahydro-2-phenylquinazoline | 1.0 g | ClC1=NC(=NC=2CCCCC12)C1=CC=CC=C1 | C14H13ClN2
reactant | 2-amino-N,N-dipropylacetamide | 0.78 g | NCC(=O)N(CCC)CCC | C8H18N2O
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(5,6,7,8-tetrahydro-2-phenyl-4-quinazolinylamino)-N,N-dipropylacetamide | 1.3 g | C1(=CC=CC=C1)C1=NC=2CCCCC2C(=N1)NCC(=O)N(CCC)CCC | C22H30N4O
